US06822100B2
Powdered lithium aluminum hydride (120 mg, 3.16 mmol) was carefully added to a stirred solution of methyl [cis-2-[5-Cyano-1-(p-toluenesulfonyl)indol-3-yl]cycloprop-1-yl]-acrylate (185 mg, 0.47 mmol) in anhydrous tetrahydrofuran (10 ml) at −30° C. The resulting mixture was stirred at −20° C. for 1.5 h. The reaction was quenched with ethyl acetate (5 ml) and allowed to warmed to room temperature. After 10 min, water (120 μL) was added and after 5 min followed by a solution of aqueous sodium hydroxide (1N, 360 μL). After a further 5 min water (120 ml) was added and the solution was stirred 20 min. The aluminum salts were removed by vacuum filtration. The salts were rinsed with ethyl acetate (100 ml) and the combined filtrates were concentrated in vacuo. The crude material was purified by silica gel column chromatography with 45% ethyl acetate in hexanes to afford 131 mg (76% yield) of cis-2-[5-Cyano-1-(p-toluenesulfonyl)indol-3-yl]cyclopropanemethanol as a white solid: 1H NMR (400 MHz, CDCl3): δ 8.04 (1H, d, J=8.6 Hz), 7.99 (1H, d, J=1.0 Hz), 7.74 (2H, d, J=6.8 Hz), 7.57 (1H, dd, J=8.6, 1.6 Hz), 7.44 (1H, d, J=1.3 Hz), 7.26 (2H, d, J=8.2 Hz), 3.50 (1H, m), 3.16 (1H, m), 2.36 (3H, s), 2.05 (1H, m), 1.60 (1H, m), 1.19 (1H, m), 0.99 (1H, t, J=5.5 Hz), 0.72 (1H, q, J=5.6 Hz); MS m/e 349 (M−OH)−.

reactant | lithium aluminum hydride | 3.16 mmol, 120 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl [cis-2-[5-Cyano-1-(p-toluenesulfonyl)indol-3-yl]cycloprop-1-yl]-acrylate | 0.47 mmol, 185 mg | C(#N)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)[C@@H]1[C@@H](C1)C(C(=O)OC)=C | C23H20N2O4S
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | cis-2-[5-Cyano-1-(p-toluenesulfonyl)indol-3-yl]cyclopropanemethanol | 131 mg, 76% yield | C(#N)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)[C@@H]1[C@@H](C1)CO | C20H18N2O3S
